US09126931B2
8-((R)-2,3-Dihydroxy-propoxy)-3-hydroxymethyl-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
3-Bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydrobenzo[b]carbazol-11-one (200.2 mg, 0.426 mmol), palladium acetate (II) (19 mg, 0.0848 mmol), hexacarbonyl molybdenum (115.5 mg, 0.438 mmol) and tris(o-tolyl)phosphine (52.5 mg, 0.172 mmol) were dissolved in THF (1.3 ml) and ethanol (0.075 ml), added with DBU (0.195 ml), and subjected to microwave irradiation at 160° C. for 15 min under nitrogen atmosphere. The resulting reaction solution was partitioned between aqueous solution of potassium dihydrophosphoric acid and ethyl acetate. The organic layer was washed with saturated brine, and then concentrated under reduced pressure. The resulting residues were dissolved in ethanol (10 ml) and THF (3 ml), added with 2 N KOH (2 ml), and stirred at room temperature for 2 hrs, at 50° C. overnight and at 70° C. for 2 hrs. The reaction solution was partitioned between aqueous solution of potassium dihydrophosphoric acid and ethyl acetate. The organic layer was washed with saturated brine, and then concentrated under reduced pressure. The resulting residues were suspended and purified with MTBE/hexane (1/1) (155.4 mg). The THF solution (1.5 ml) of the product (109 mg) was added with TEA (0.052 ml, 0.373 mmol) and ethyl chloroformate (0.029 ml, 0.303 mmol) under ice cooling, and the mixture was stirred at 0° C. for 2 hrs. Subsequently, ethanol (1 ml) and sodium borohydride (75.7 mg, 2.0 mmol) were added to the mixture, which was then stirred at room temperature for 2 hrs. The reaction solution was partitioned between aqueous solution of potassium dihydrophosphoric acid and ethyl acetate. The organic layer was washed with saturated brine, and then concentrated under reduced pressure. The resulting residues were purified by silica gel column (MeOH/DCM) (35.2 mg). Thus-obtained solid (9.6 mg) was dissolved in MeOH (1 ml), added with 1 N HCl (3 drops), and the mixture was stirred at 60° C. for 90 min. After cooling and concentration under reduced pressure, the resultant was purified by TLC (MeOH/DCM) to obtain Compound GT20-8 (6.2 mg, white solid) and Compound GT20-9 (4.3 mg, white solid).

reactant | 3-Bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydrobenzo[b]carbazol-11-one | 0.426 mmol, 200.2 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O | C24H24BrNO4
reactant | tris(o-tolyl)phosphine | 0.172 mmol, 52.5 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | DBU | 0.195 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl chloroformate | 0.303 mmol, 0.029 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 2.0 mmol, 75.7 mg | [BH4-].[Na+]
solvent | THF | 1.3 ml | C1CCOC1 | C4H8O
solvent | ethanol | 0.075 ml | C(C)O | C2H6O
catalyst | bis(acetonitrile)dichloropalladium | 0.0848 mmol, 19 mg | CC#N.CC#N.Cl[Pd]Cl
catalyst | hexacarbonyl molybdenum | 0.438 mmol, 115.5 mg | C(=O)=[Mo](=C=O)(=C=O)(=C=O)(=C=O)=C=O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 8-((R)-2,3-Dihydroxy-propoxy)-3-hydroxymethyl-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 9.6 mg | O[C@@H](COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)CO)(C)C)C1)CO | C22H23NO5
